US07902252B2
5.1.c) Synthesis of (E)-methyl 4-benzylidene-1-((2-(trimethylsilyl)ethoxy)methyl)-4,5,6,7-tetrahydro-1H-indole-2-carboxylate
The title compound was synthesized from methyl 4-oxo-1-((2-(trimethylsilyl)ethoxy)methyl)-4,5,6,7-tetrahydro-1H-indole-2-carboxylate (900 mg, 2.78 mmol) and benzylmagnesium chloride (3.4 mL, 2M in THF, 6.8 mmol) according to General Procedure 3. In this example, additional benzylmagnesium chloride (1.7 mL, 2M in THF, 3.4 mmol) was added after 2 h. The crude product (900 mg) was used in the next step without further purification. LC/MS: 50%, m/z=397.

reactant | methyl 4-oxo-1-((2-(trimethylsilyl)ethoxy)methyl)-4,5,6,7-tetrahydro-1H-indole-2-carboxylate | 2.78 mmol, 900 mg | O=C1C=2C=C(N(C2CCC1)COCC[Si](C)(C)C)C(=O)OC | C16H25NO4Si
reactant | benzylmagnesium chloride | 6.8 mmol, 2M, 3.4 mL | C(C1=CC=CC=C1)[Mg]Cl
reactant | benzylmagnesium chloride | 3.4 mmol, 2M, 1.7 mL | C(C1=CC=CC=C1)[Mg]Cl
product | (E)-methyl 4-benzylidene-1-((2-(trimethylsilyl)ethoxy)methyl)-4,5,6,7-tetrahydro-1H-indole-2-carboxylate | C(/C1=CC=CC=C1)=C/1\C=2C=C(N(C2CCC1)COCC[Si](C)(C)C)C(=O)OC | C23H31NO3Si
